US06166006
A solution of 6-(4-methylphenyl)-1-indanone (4.97 g) in THF (33 ml) was dropwise added to a refluxed mixture of 60% sodium hydride (3.26 g), potassium hydride (catalytic amount), dimethyl carbonate (6.65 ml) and THF (100 ml), and the mixture was ref luxed for 6 hours. The reaction mixture was cooled to 0° C., and to the mixture was gradually added 2N hydrochloric acid (150 ml). The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/toluene=1/3) to give a brown solid. The solid was dissolved in dichloromethane (100 ml), and to the mixture was added sodium boron hydride (391 mg) at 0° C. and then was dropwise added methanol (10 ml). The reaction mixture was stirred at 0° C. for 1.5 hours, and to the mixture was added water (500 ml). The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (30 ml), and to the mixture was added 1N sodium hydroxide (40 ml). The mixture was refluxed for 2 hours and cooled to room temperature. To the mixture was added water, and the mixture was washed with diethylether. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in Diglyme (30 ml), and to the mixture was added concentrated hydrochloric acid (6 ml). The mixture was stirred at 100° C. for 2 hours, and to the solution were added 0.5% sodium hydrogen carbonate solution (500 ml) and hexane(500 ml). The resulting precipitate was filtered to give 5-(4-methylphenyl)-indene-2-carboxylic acid (2.72 g) as brown crystals.

reactant | 6-(4-methylphenyl)-1-indanone | 4.97 g | CC1=CC=C(C=C1)C1=CC=C2CCC(C2=C1)=O | C16H14O
reactant | sodium hydride | 3.26 g | [H-].[Na+]
reactant | potassium hydride | [H-].[K+]
reactant | dimethyl carbonate | 6.65 ml | C(OC)(OC)=O | C3H6O3
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
reactant | sodium boron hydride | 391 mg | B.[Na]
solvent | THF | 33 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 500 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 5-(4-methylphenyl)-indene-2-carboxylic acid | 2.72 g | CC1=CC=C(C=C1)C=1C=C2C=C(CC2=CC1)C(=O)O | C17H14O2
